US04180475
102.75 G. of 4-[5-(4-n-butylphenyl)-2-pyrimidyl] benzoic acid amide are refluxed for 80 minutes in a mixture of 1500 ml. of ethylene chloride and 34 ml. of phosphorus oxychloride with stirring. The mixture, diluted with ether, is washed with 2-N sodium hydroxide solution and then with water until neutral. After evaporation of the organic phase, which has been dried over sodium sulfate, there is obtained 5-(4-n-butylphenyl)-2-(4-cyanophenyl)pyrimidine which is filtered on a short silica gel column and subsequently recrystallized from methylene chloride/methanol; melting point 94.7° C.; clearing point 246°-246.7° C.

reactant | 4-[5-(4-n-butylphenyl)-2-pyrimidyl] benzoic acid amide | C(CCC)C1=CC=C(C=C1)C=1C=NC(=NC1)C1=CC=C(C(=O)N)C=C1 | C21H21N3O
reactant | ethylene chloride | C(CCl)Cl | C2H4Cl2
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ether | CCOCC | C4H10O
product | 5-(4-n-butylphenyl)-2-(4-cyanophenyl)pyrimidine | C(CCC)C1=CC=C(C=C1)C=1C=NC(=NC1)C1=CC=C(C=C1)C#N | C21H19N3
